US04892875
4-Benzyl-1-piperazineethanol was reacted with diketene in the same manner as Reference Example 1-(2) to give 2-(4-benzyl-1-piperazinyl)ethyl acetoacetate as an oil. Yield 90.2%. NMR(CDCl3)δ: 2.26(3H, s), 2.47(8H, s), 2.61(2H, t, J=6), 3.41(2H, s), 3.47(2H, s), 4.22(2H, t, J=6), 7.21(5H, s).

reactant | 4-Benzyl-1-piperazineethanol | C(C1=CC=CC=C1)N1CCN(CC1)CCO | C13H20N2O
reactant | diketene | C=C1CC(=O)O1 | C4H4O2
product | 2-(4-benzyl-1-piperazinyl)ethyl acetoacetate | Yield 90.2% | C(CC(=O)C)(=O)OCCN1CCN(CC1)CC1=CC=CC=C1 | C17H24N2O3
